US07968704B2
It is clear from experiments E13 to E16 that an increase in the reaction temperature to above 300° C. does not lead to a rise in the yield of shorter-chain polyols, but instead the yield thereof decreases, accompanied by a decreasing conversion of the glucose used. Despite the very short residence time of 5 s, at 250° C. (E13) there is still a sorbitol yield of approximately 42% and a mannitol yield of 6%, whilst approximately 13% polyols from the group propanetriol (glycerin), 1,3-propanediol, 2,3-butanediol and 1,4-butanediol were obtained. At 300° C. (E14) there is a sorbitol/mannitol yield of only 11 or approximately 4%, whereas the yield of the indicated polyols increases to approximately 30%. There is also a maximum ethanediol yield of approximately 17%. With higher temperatures of 350° and 400° C. (E15 and E16), there is a drastic decrease in the yields of all the desired products.

reactant | propanetriol | C(CC)(O)(O)O | C3H8O3
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
reactant | 2,3-butanediol | CC(C(C)O)O | C4H10O2
reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
product | mannitol | yield of 6% | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
